US07795249B2
Sodium (120 mg, 0.0051 mol) was added slowly to MeOH (2.5 mL, 0.062 mol) at −5° C. To this solution were added dimethyl oxalate (500 mg, 0.0042 mol) and 1-(2-bromophenyl)ethanone (840 mg, 0.0042 mol) in Et2O (5 mL). The reaction mixture was allowed to stir for 12 h and then concentrated and partitioned between Et2O and water. The aqueous solution was separated and cooled in an ice bath. AcOH was added followed by 1N HCl until the solution was acidic. The mixture was extracted with Et2O, and organic solution was dried over Na2SO4, filtered and concentrated to afford methyl 4-(2-bromophenyl)-2,4-dioxobutanoate (1.08 g, 89%) which was used without purification in the next step. LCMS: (FA) ES+ 287.0

reactant | Sodium | 0.0051 mol, 120 mg | [Na] | Na
reactant | MeOH | 0.062 mol, 2.5 mL | CO | CH4O
reactant | dimethyl oxalate | 0.0042 mol, 500 mg | C(C(=O)OC)(=O)OC | C4H6O4
reactant | 1-(2-bromophenyl)ethanone | 0.0042 mol, 840 mg | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | methyl 4-(2-bromophenyl)-2,4-dioxobutanoate | 1.08 g, 89% | BrC1=C(C=CC=C1)C(CC(C(=O)OC)=O)=O | C11H9BrO4
